US07241785B2
To a mixture of 3-benzyloxy-1-phenyl-1H-pyrazole-4-carbaldehyde (3.00 g), diethylphosphonoethyl acetate (2.67 g) and N,N-dimethylformamide (50 ml) was added sodium hydride (60% in oil, 0.52 g) at 0° C. and the mixture was stirred at room temperature for 15 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with dilute hydrochloric acid and saturated brine, dried (MgSO4) and concentrated. The obtained crystals were collected by filtration to give ethyl (E)-3-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)propenoate (3.18 g, yield 85%), which was then recrystallized from ethyl acetate-hexane. melting point: 105–106° C.

reactant | 3-benzyloxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 3.00 g | C(C1=CC=CC=C1)OC1=NN(C=C1C=O)C1=CC=CC=C1 | C17H14N2O2
reactant | diethylphosphonoethyl acetate | 2.67 g | C(C)(=O)OCCP(=O)(OCC)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.52 g | [H-].[Na+]
solvent | water | O | H2O
product | ethyl (E)-3-(3-benzyloxy-1-phenyl-1H-pyrazol-4-yl)propenoate | 3.18 g, yield 85% | C(C1=CC=CC=C1)OC1=NN(C=C1/C=C/C(=O)OCC)C1=CC=CC=C1 | C21H20N2O3
